US09216980B2
3-(1-Methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid
A degassed mixture of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (30.4 mg, 99.3 μmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (31.0 mg, 0.149 mmol), and bis(triphenylphosphine)palladium(II) dichloride (3.5 mg, 5.0 μmol) in acetonitrile (2.5 mL) and 2N aqueous sodium carbonate solution (2.5 mL) was heated under microwave irradiation at 140° C. for 10 minutes. The cooled reaction mixture was acidified with 10% aqueous sulfuric acid, the solid removed by filtration and the resultant filtrate purified by preparative HPLC (0-30% MeCN over 30 min, 35 mL/min) to afford the title compound. 1H NMR (DMSO-D6, 500 MHz): 12.84 (s, 1H), 9.04 (d, J=2.1 Hz, 1H), 8.95 (s, 2H), 8.91 (d, J=2.1 Hz, 1H), 8.25 (s, 1H), 8.00 (s, 1H), 6.48 (s, 1H), 3.92 (s, 3H). LCMS (Method D): RT=5.24 min, M+H+=294.

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 99.3 μmol, 30.4 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C12H8BrN3O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.149 mmol, 31.0 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 2N, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 5.0 μmol, 3.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1-Methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid | CN1N=CC(=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)O)N=C1 | C15H11N5O2
